US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-4-pyrimidinediamine, 3-aminophenol and (±)-N-(2-chloro-5-fluoropyrimidinyl)-1-(4-fluorophenyl)ethylamine were reacted to produce the desired (±)-5-fluoro-N4-[1-(4-fluorophenyl)ethyl]-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.79 (d, 1H, J=3.3 Hz), 7.38–7.34 (dd, 2H, J=5.2 and 8.5 Hz), 7.14 (t, 1H, J=4.5 Hz), 7.09 (d, 1H, J=8.5 Hz), 7.03 (d, 1H, J=8.5 Hz), 6.84 (br s, 1H), 6.84–6.78 (ddd, 1H, J=0.8, 2.0, and 8.2 Hz), 6.46–6.42 (ddd, 1H, J=0.8, 2.0 and 8.2 Hz), 5.26 (overlapped dq, 1H, J=7.1 and 7.9 Hz), 5.18 (d, 1H, J=7.1 Hz), 1.59 (d, 3H, J=7.1 Hz); LCMS: ret. time: 21.52 min.; purity: 92%; MS (m/e): 343 (MH+).

reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | (±)-N-(2-chloro-5-fluoropyrimidinyl)-1-(4-fluorophenyl)ethylamine | ClC1=NC=C(C(=N1)NC(C)C1=CC=C(C=C1)F)F | C12H10ClF2N3
product | (±)-5-fluoro-N4-[1-(4-fluorophenyl)ethyl]-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NC(C)C1=CC=C(C=C1)F | C18H16F2N4O
